datasets/10k__Tet_Int.csv
SMILES Labelled
"C9=CC=CC=C9[S+:10]([H])[C:20]1([O:21][H])[S]C(CC)C(C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[S]C(CC)C(C8=CC=CC=C8)[O]2.C9=CC=CC=C9[S:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1 10=20;20,21=21"
"[NH:10](C)C(C)C(C)C([H])C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])C(C)C(C)[NH+:10]1(C) 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1C)([O-:10])[O:21][H])CCCCCC>>CCCCCCC1C(O[C:20](=[O:10])N1C)CCCCCC.[O-:21][H] 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C([H])[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.C[O:10][H] 21=20;20,10=10"
"[NH:10]([H])C(CC)C(O)C(O)C([H])[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C([H])C(O)C(O)C(CC)[NH+:10]1([H]) 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(CC)[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"[H][O+:10](C([H])C([H])[O]1)[C:20]1([O:21]C)[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])[O][C:20]([O]C7=CC=CC=C7)=[O+:21]C 21=20;20,10=10"
"[NH:10](C)C([H])C(C)C([H])C(C)[C:20]([H])=[O:21]>>[O-:21][C:20]1([H])C(C)C([H])C(C)C([H])[NH+:10]1(C) 10=20;20,21=21"
"[O:10]([K])C(CCC)/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O+:10]([K])C(CCC)C(C)=C1C 10=20;20,21=21"
"CC[O+:10]([K])[C:21]([O-:20])(OC1=CC=CC=C1)OC1=CC=CC=C1>>[O:20]=[C:21](OC1=CC=CC=C1)OC1=CC=CC=C1.CC[O:10][K] 20=21;21,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OC1=CC=CC=C1)C)C1=CC=CC=C1>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OC1=CC=CC=C1)C)C1=CC=CC=C1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C(C)[CH](C)[O]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(CC)[S][C:20]([O]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(CC)[S]1)[C:20]1([O:21][Si](C)(C)(C))[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C([H])C(O)C([H])[NH+:10]1([H])>>[NH:10]([H])C([H])C(O)C([H])C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C([H])[CH](C)[NH]1 10=20;20,21=21"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([S]C)[O][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([S]C)[O][H] 10=20;20,21=21"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](CC)[CH](C)C([H])[O]2.C[NH:10][H].[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](CC)C(C)[CH]([H])[O]1 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.C[O:10][H] 21=20;20,10=10"
"CCC1C(O[C:20](=[O:10])N1CC)[H].[O-:21]CC>>CCC1C(O[C:20](N1CC)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)[H])CCCCCC)[H])[O-:10])CC>>C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])[H])CCCCCC)[H])CC 10=20;20,21=21"
"[Li][O:21]CCCCCC.[C:20](=[O:10])(OCCCCCC)OCC>>[Li][O+:21]([C:20]([O-:10])(OCCCCCC)OCC)CCCCCC 21=20;20,10=10"
"[OH:10]C(CCC)C([H])C([C:20](OC)=[OH+:21])C>>[OH:21][C:20]1(OC)[OH+:10]C(CCC)C([H])C1C 10=20;20,21=21"
"C(C([O-:21])C)(C(O[C:20](=[O:10])OCCCCCC)C)CCCCCC>>C1(C(O[C:20]([O-:10])([O:21]C1C)OCCCCCC)C)CCCCCC 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[NH]C(CC)C(CC)[NH]2.[H][NH:10][H].[Cl-]>>[Cl-].[H][NH+:10]([H])[C:20]1([NH:21]CC)[NH]C(CC)C(CC)[NH]1 10=20;20,21=21"
"[O-:21][C:20]1(OC)[O:10]C([H])C(C)=C1C>>[O-:10]C([H])/C(C)=C([C:20](OC)=[O:21])/C 21=20;20,10=10"
"CC1C(C(O[C:20](N1CCCCCC)([O-:10])[Cl:21])CCCCCC)[H]>>CC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)[H].[Cl-:21] 10=20;20,21=21"
"C(C([O-:21])[H])(C(O[C:20](=[O:10])OCCCCCC)CCCCCC)[H]>>C1(C(O[C:20]([O-:10])([O:21]C1[H])OCCCCCC)CCCCCC)[H] 21=20;20,10=10"
"[CH2:20]([O:10]C1=CC=CC=C1)[Br:21]>>[CH2:20]=[O+:10]C1=CC=CC=C1.[Br-:21] 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]C1=CC=CC=C1)C)C>>CCCCCCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)C)C.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"[H]N([C:20]1(OC(C(C([O:21]1)C)C)CC)[O-:10])[H]>>[H]N([C:20](=[O:10])OC(C(C([O-:21])C)C)CC)[H] 10=20;20,21=21"
"CC[O+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[S]C([H])C(CC)[S]1.[Cl-]>>[Cl-].[Si](C)(C)(C)[O+:21]=[C:20]2[S]C([H])C(CC)[S]2.CC[O:10][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(CC)[O]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
